US04596830
3,4-Dihydro-4,4-dimethyl-2-(3-methoxy-5-methylthio-2-thienyl)-oxazole (VIII: R=CH3)
27 g (0.128 moles) of 3,4-dihydro-4,4-dimethyl-2-(3-methoxy-2-thienyl)-oxazole are dissolved in 400 ml of absolute tetrahydrofuran, the solution is cooled to -45° C. and 88 ml (0.141 moles) of a 1.6 molar solution of butyllithium in n-hexane is added dropwise such that the temperature in the reaction mixture does not exceed -45° C. After completion of the addition it is stirred further for 1.5 hours at -45° C., a solution of 13.9 g (0.147 moles) of dimethylsulfide in 70 ml of absolute tetrahydrofuran is added and stirring continues for an additional 30 minutes at this temperature. Then it is heated to -20° C., poured onto water and extracted several times with ether. The combined ether phases are dried with sodium sulfate, decolored with activated charcoal, evaporated in vacuo and the crystalline residue is recrystallized from petroleum ether. Yield: 24.7 g (75%), m.p. 56°-58° C.

reactant | 3,4-dihydro-4,4-dimethyl-2-(3-methoxy-2-thienyl)-oxazole | 0.128 moles, 27 g | CC1(NC(OC1)C=1SC=CC1OC)C | C10H15NO2S
reactant | butyllithium | C(CCC)[Li]
reactant | dimethylsulfide | 0.147 moles, 13.9 g | CSC | C2H6S
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | n-hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | 3,4-Dihydro-4,4-dimethyl-2-(3-methoxy-5-methylthio-2-thienyl)-oxazole | CC1(NC(OC1)C=1SC(=CC1OC)SC)C | C11H17NO2S2
